US05114918
To a solution of Leu-OBzl.p-TsOH(2.06 g), Boc-DVal (1.09 g), HOBT.H2O(0.80 g) and N-methylmorpholine(0.55 ml) in dichloromethane(10 ml) was added EDCI HCl(1.01 g) under ice cooling. The resulting mixture was stirred at room temperature for 5 h. Saturated NaHCO3 (10ml) was added, and the mixture was extracted with dichloromethane(50 ml×3). The combined organic layers were dried over MgSO4 and filtered. The solvent was evaporated under reduced pressure. The residue was purified by dry column flash chromatography on silica gel(Merck, KIESELGEL 60) with hexane/EtOAc(2/1) for elution to give Boc-nVal-Leu-OBzl(2.03 g) as a colorless powder. The dipeptide(1.47 g) was added by portions to TFA(3.5 ml) under ice cooling. The mixture was stirred under ice cooling for 30 min and concentrated in vacuo. To the residue was added saturated NaHCO3 (10 ml) and the mixture was extracted with dichloromethane(50 ml×3).

reactant | Leu-OBzl | N[C@@H](CC(C)C)C(=O)OCC1=CC=CC=C1 | C13H19NO2
reactant | p-TsOH | 2.06 g | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
reactant | Boc-DVal | 1.09 g | N([C@H](C(C)C)C(=O)O)C(=O)OC(C)(C)C | C10H19NO4
reactant | HOBT | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N-methylmorpholine | 0.55 ml | CN1CCOCC1 | C5H11NO
reactant | EDCI HCl | 1.01 g | CCN=C=NCCCN(C)C.Cl
reactant | NaHCO3 | 10ml | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | H2O | 0.80 g | O | H2O
product | Boc-nVal-Leu-OBzl | 2.03 g | N([C@@H](CCC)C(=O)N[C@@H](CC(C)C)C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C23H36N2O5
